US06191150B1
A mixture of methyl (2R,3R)-2-(2-methyl-2-propene-1-yl)-3-hydroxyhexanoate (7 g, 34.6 mmol) and 1.7 g of 5% palladium on carbon (50 wt. % water content) in 50 mL of MeOH is stirred overnight under hydrogen gas at 1 atmosphere pressure. Filtration and concentration of the filtrate under reduced pressure affords 6.5 g (93%) of methyl (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoate as an oil.

reactant | methyl (2R,3R)-2-(2-methyl-2-propene-1-yl)-3-hydroxyhexanoate | 34.6 mmol, 7 g | CC(C[C@@H](C(=O)OC)[C@@H](CCC)O)=C | C11H20O3
catalyst | palladium on carbon | 1.7 g | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
product | methyl (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoate | 6.5 g, 93% | CC(C[C@@H](C(=O)OC)[C@@H](CCC)O)C | C11H22O3
